US05925768
A) (1S)-1,3,3-Trimethylbicyclo[2.2.1]heptan-2-one oxime
A solution of 23 g of hydroxylamine hydrochloride and 41 g of sodium acetate in 200 ml of water is added at RT to a solution of 38.1 g of (1S)-(+)-fenchone in 120 ml of MeOH and the mixture is then refluxed for 48 hours. After cooling to RT, the precipitate formed is filtered off, washed with water and dried under vacuum to give 41 g of the expected product.

reactant | hydroxylamine hydrochloride | 23 g | Cl.NO
reactant | sodium acetate | 41 g | C(C)(=O)[O-].[Na+]
reactant | (1S)-(+)-fenchone | 38.1 g | C[C@]12CC[C@H](C1)C(C2=O)(C)C | C10H16O
solvent | water | 200 ml | O | H2O
solvent | MeOH | 120 ml | CO | CH4O
product | (1S)-1,3,3-Trimethylbicyclo[2.2.1]heptan-2-one oxime | 41 g | C[C@]12C(C(C(CC1)C2)(C)C)=NO | C10H17NO
